* Z:\home\ezequiel\Documents\FIUBA\CE1-6608-2017\TP\TL2\Citcuito1.asc
Q1 N014 N010 N004 0 BC558B
R1 N001 N004 1k
R2 N001 N005 33
C1 N001 N003 100µ
C2 N005 N004 2µ
R3 N014 0 4.7k
R4 N001 N010 100K
R5 N010 0 820K
C3 N015 N014 2µ
R6 N015 0 10k
R7 N018 N009 50
C4 N010 N009 2µ
V1 N018 0 SINE(0 10m 40K) AC 10m
V2 N001 0 18
Q2 N016 N011 N007 0 BC858B
R8 N002 N007 1k
R9 N002 N008 33
C5 N002 N006 100µ
C6 N008 N007 2µ
R10 N016 0 4.7k
C7 N017 N016 2µ
R13 N017 0 10k
R14 N020 N012 50
C8 N013 N012 2µ
V3 N020 0 SINE(0 10m 40K) AC 10m
V4 N002 0 18
Q3 N019 N013 N011 0 BC857B
R11 N019 0 4.7k
R12 N002 N011 1k
R15 N013 0 820k
R16 N002 N013 193k
.model NPN NPN
.model PNP PNP
.lib C:\users\ezequiel\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.1 0.0999 0.0001
;ac oct 5 10 100000000
.model BC558B   PNP
+Is=1.02f
+Rb=150
+Xti=3
+Eg=1.11
+Vaf=52.31
+Bf=306.5
+Ise=10.27f
+Ne=1.764
+Ikf=91.85m
+Nk=.5351
+Xtb=1.5
+Br=6.48
+Isc=1.472f
+Nc=1.294
+Ikr=.5584
+Rc=1.086
+Cjc=9.81p
+Mjc=.332
+Vjc=.4865
+Fc=.5
+Cje=30p
+Mje=.3333
+Vje=.5
+Tr=10n
+Tf=611.6p
+Itf=1.373
+Xtf=26.05
+Vtf=10)
*                               PHILIPS                         pid=bc556b      case=TO92
*                               91-08-02 dsq
.backanno
.end
