* Z:\home\ezequiel\Documents\FIUBA\CE1-6608-2017\TP\TL2\Citcuito1.asc
Q1 N012 N008 N003 0 BC558B
R1 Vcc N003 1k
R2 Vcc N004 39
C1 Vcc N002 2µ
C2 N004 N003 2µ
R3 N012 0 4.7k
R4 Vcc N008 100K
R5 N008 0 820K
C3 N013 N012 2µ
R6 N013 0 10k
R7 N016 N007 50
C4 N008 N007 2µ
V1 N016 0 SINE(0 10m 100K) AC 10m
V2 Vcc 0 18
Q2 N014 N009 N005 0 BC558B
R8 N001 N005 1k
R9 N001 N006 39
C5 N001 N005 100µ
C6 N006 N005 2µ
R10 N014 0 4.7k
C7 N015 N014 2µ
R13 N015 0 10k
R14 N018 N010 50
C8 N011 N010 2µ
V3 N018 0 SINE(0 10m 100K) AC 10m
V4 N001 0 15
Q3 N017 N011 N009 0 BC857B
R11 N017 0 4.7k
R12 N001 N009 1k
R15 N011 0 780k
R16 N001 N011 140k
.model NPN NPN
.model PNP PNP
.lib C:\users\ezequiel\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.11 0.1099 0.00001
;ac oct 5 10 100000000
.model BC558B   PNP
+Is=1.02f
+Rb=150
+Xti=3
+Eg=1.11
+Vaf=52.31
+Bf=306.5
+Ise=10.27f
+Ne=1.764
+Ikf=91.85m
+Nk=.5351
+Xtb=1.5
+Br=6.48
+Isc=1.472f
+Nc=1.294
+Ikr=.5584
+Rc=1.086
+Cjc=9.81p
+Mjc=.332
+Vjc=.4865
+Fc=.5
+Cje=30p
+Mje=.3333
+Vje=.5
+Tr=10n
+Tf=611.6p
+Itf=1.373
+Xtf=26.05
+Vtf=10)
*                               PHILIPS                         pid=bc556b      case=TO92
*                               91-08-02 dsq
.backanno
.end
