* Z:\home\ezequiel\Documents\FIUBA\CE1-6608-2017\TP\TL2\Citcuito1.asc
Q1 N012 N007 N002 0 BC558B
R1 N001 N002 1k
R2 N001 N003 39
C2 N003 N002 2µ
R3 N012 0 4.7k
R4 N001 N007 100K
R5 N007 0 820K
C3 N013 N012 2µ
R6 N013 0 10k
R7 N016 N006 50
V1 N016 0 SINE(0 10m 100K) AC 10m
V2 N001 0 18
Q2 N014 N008 N004 0 BC558B
R8 VCC N004 1k
R9 VCC N005 39
C6 N005 N004 2µ
R10 N014 0 4.7k
C7 N015 N014 2µ
R13 N015 0 10k
R14 N017 N009 50
C8 N011 N010 2µ
V3 N017 0 SINE(0 10m 100K) AC 10m
V4 VCC 0 18
Q3 0 N011 N008 0 BC558B
R12 VCC N008 1k
R15 N011 0 820k
R16 VCC N011 167k
C1 N007 N006 2µf
R11 N010 N009 100k
.model NPN NPN
.model PNP PNP
.lib C:\users\ezequiel\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 0.01 0.0099 0.00001
;ac oct 5 10 100000000
.model BC558B   PNP
+Is=1.02f
+Rb=150
+Xti=3
+Eg=1.11
+Vaf=52.31
+Bf=306.5
+Ise=10.27f
+Ne=1.764
+Ikf=91.85m
+Nk=.5351
+Xtb=1.5
+Br=6.48
+Isc=1.472f
+Nc=1.294
+Ikr=.5584
+Rc=1.086
+Cjc=9.81p
+Mjc=.332
+Vjc=.4865
+Fc=.5
+Cje=30p
+Mje=.3333
+Vje=.5
+Tr=10n
+Tf=611.6p
+Itf=1.373
+Xtf=26.05
+Vtf=10)
*                               PHILIPS                         pid=bc556b      case=TO92
*                               91-08-02 dsq
.backanno
.end
